US07279580B2
2-Chloro-3-fluoroisonicotinic acid (3.30 g, 18.8 mmol) was suspended in thionyl chloride (40 ml) and heated under reflux for 2.5 h. The solvent was evaporated and the residue dried by means of azeotropic removal of water with toluene (100 ml) to afford a pale yellow oil. The oil was dissolved in dichloromethane (20 ml) and cooled to 0° C. before methanol (2.42 g, 75.3 mmol) was added dropwise to the solution over 15 min. On complete addition the mixture was allowed to warm to ambient temperature and stirred for 18 h. The solvent was evaporated and the mixture partitioned between water (75 ml) and dichloromethane (100 ml). The aqueous phase was extracted further with dichloromethane (100 ml), the organic layers were combined, washed with brine (75 ml), dried over anhydrous sodium sulphate, filtered and evaporated to give 2-chloro-3-fluoroisonicotinic acid methyl ester (3.32 g, 93%) as a pale yellow solid: δH (360 MHz, CDCl3) 3.99 (3H, s), 7.70 (1H, dd, J 5 and 5), 8.31 (1H, d, J 5).

reactant | 2-Chloro-3-fluoroisonicotinic acid | 18.8 mmol, 3.30 g | ClC=1C(=C(C(=O)O)C=CN1)F | C6H3ClFNO2
reactant | methanol | 75.3 mmol, 2.42 g | CO | CH4O
solvent | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-chloro-3-fluoroisonicotinic acid methyl ester | 3.32 g, 93% | COC(C1=C(C(=NC=C1)Cl)F)=O | C7H5ClFNO2
